US07781454B2
Step 2: 3-({1-[(6-amino-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-5-chloro-1H-1,2,3-benzotriazol-4-yl}oxy)-2,5-dichlorobenzonitrile
2,5-dichloro-3-{[5-chloro-1-({1-(4-methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridin-3-yl}methyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile (60 mg, 0.083 mmol) was dissolved in TFA and heated to 75° C. After 1 hour, the reaction mixture was concentrated under reduced pressure and re-constituted in EtOAc (15 mL). The reconstituted mixture was then washed with saturated aqueous sodium carbonate (5 mL) and then with water (5 mL). The combined aqueous layers were back-extracted with EtOAc (15 μL). The combined organic fractions were dried (MgSO4), filtered and solvent removed under reduced pressure. The resulting residue was purified by column chromatography on silica gel (4 g) eluting with 0-10% MeOH/CH2Cl2 to yield the title compound. 1H NMR (DMSO-d6) δ 12.70 (s, 1H), 8.04 (d, J=2.3 Hz, 1H), 7.81 (d, J=8.9 Hz, 1H), 7.76 (d, J=8.9 Hz, 1H), 7.53 (d, J=8.6 Hz, 1H), 7.41 (d, J=2.3 Hz, 1H), 6.36 (s, 2H), 6.29 (d, J=8.7 Hz, 1H), 6.15 (s, 2H), 5.75 (s, 1H). HRMS (M+1)=485.0193.

reactant | 2,5-dichloro-3-{[5-chloro-1-({1-(4-methoxybenzyl)-6-[(4-methoxybenzyl)amino]-1H-pyrazolo[3,4-b]pyridin-3-yl}methyl)-1H-1,2,3-benzotriazol-4-yl]oxy}benzonitrile | 0.083 mmol, 60 mg | ClC1=C(C#N)C=C(C=C1OC1=C(C=CC=2N(N=NC21)CC2=NN(C1=NC(=CC=C12)NCC1=CC=C(C=C1)OC)CC1=CC=C(C=C1)OC)Cl)Cl | C36H27Cl3N8O3
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | 3-({1-[(6-amino-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-5-chloro-1H-1,2,3-benzotriazol-4-yl}oxy)-2,5-dichlorobenzonitrile | NC1=CC=C2C(=N1)NN=C2CN2N=NC1=C2C=CC(=C1OC=1C(=C(C#N)C=C(C1)Cl)Cl)Cl | C20H11Cl3N8O
